US05849764
Step 5.1C 3-[2-[benzyloxycarbonyl-[4-(pyridin-4-yl)butyl]amino]ethyl]-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester
A solution of 3.19 g (6.83 mmol) of 2-(3,5-dimethylphenyl)- 3-[2-[4-(pyridin-4-yl)butylamino] ethyl]-1H-indole-5-carboxylic acid ethyl ester in 25 mL of dry methylene chloride was stirred under nitrogen and cooled to -78° C. in a dry ice-acetone bath as 2.38 mL (1.76 g, 13.7 mmol) of N,N-diisopropylethylamine was added, followed by gradual addition of 3.4 mL (4.06 g; 23.7 mmol) of benzyl chloroformate by syringe, in portions. After about 2.5 hours, the solution was removed from the cooling bath and allowed to warm to room temperature. It was then partitioned between ethyl acetate and 5% potassium bisulfate aqueous solution. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (elution with a gradient of 0.5-10% methanol in methylene chloride) afforded a quantitative yield of the product as a yellow foam. 500 MHz 1H NMR was complex, owing to the existence of rotamers, but was consistent with the assigned structure. Mass spectrum (PB-NH3 /CI): m/e=604.3 (M+H).

reactant | 2-(3,5-dimethylphenyl)- 3-[2-[4-(pyridin-4-yl)butylamino] ethyl]-1H-indole-5-carboxylic acid ethyl ester | 6.83 mmol, 3.19 g | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCCCCC1=CC=NC=C1 | C30H35N3O2
reactant | N,N-diisopropylethylamine | 13.7 mmol, 2.38 mL, 1.76 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl chloroformate | 23.7 mmol, 3.4 mL, 4.06 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-[benzyloxycarbonyl-[4-(pyridin-4-yl)butyl]amino]ethyl]-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester | quantitative yield | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN(CCCCC1=CC=NC=C1)C(=O)OCC1=CC=CC=C1 | C38H41N3O4
